US06531502B1
2,2-Dimethyl-6-formylchromane (commercially available) was condensed with 4-methyl-2-oxindole to give 0.25 g of 3-(2,2-dimethylchroman-6-ylmethylene)-4-methyl-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 2,2-Dimethyl-6-formylchromane | CC1(OC2=CC=C(C=C2CC1)C=O)C | C12H14O2
reactant | 4-methyl-2-oxindole | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
product | 3-(2,2-dimethylchroman-6-ylmethylene)-4-methyl-1,3-dihydroindol-2-one | 0.25 g | CC1(OC2=CC=C(C=C2CC1)C=C1C(NC2=CC=CC(=C12)C)=O)C | C21H21NO2
